US05969134
10 g (34.9 mmol) of methyl 2-hydroxy-3-methoxy-3,3-diphenylpropionate were dissolved in 50 ml each of methanol and glacial acetic acid, 1 ml of RuO(OH)2 in dioxane was added, and hydrogenation was carried out with H2 in an autoclave at 100° C. under 100 bar for 30 h. The catalyst was filtered off, the mixture was concentrated, mixed with ether and washed with NaCl solution, and the organic phase was dried and concentrated. 10,1 g of methyl 3,3-dicyclohexyl-2-hydroxy-3-methoxypropionate were obtained as an oil.

reactant | methyl 2-hydroxy-3-methoxy-3,3-diphenylpropionate | 34.9 mmol, 10 g | OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C17H18O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | methyl 3,3-dicyclohexyl-2-hydroxy-3-methoxypropionate | 10,1 g | C1(CCCCC1)C(C(C(=O)OC)O)(OC)C1CCCCC1 | C17H30O4
